US05166347
Preparation of N-cyano-N'-[2-(4-chlorophenyl)ethyl]-4-pyridinecarboximidamide (method i)
Isopropyl N-cyano-4-pyridinecarboximidate (0.5 g, 2.6 mmol) was dissolved in methanol (5 ml), and 2-(4 chlorophenyl)ethylamine (0.46 g, 3.0 mmol) having been diluted with methanol (5 ml) was added. The mixture was stirred at room temperature for 40 minutes. After the reaction was completed, the reaction solution was then concentrated under reduced pressure. The residual concentrate was further crystallized from methanol-diethyl ether to give the title compound (0.44 g, 1.5 mmol, yield: 58%) as colorless needles.

reactant | Isopropyl N-cyano-4-pyridinecarboximidate | 2.6 mmol, 0.5 g | C(#N)N=C(OC(C)C)C1=CC=NC=C1 | C10H11N3O
reactant | 2-(4 chlorophenyl)ethylamine | 3.0 mmol, 0.46 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | N-cyano-N'-[2-(4-chlorophenyl)ethyl]-4-pyridinecarboximidamide | 1.5 mmol, 0.44 g, yield: 58% | C(#N)NC(=NCCC1=CC=C(C=C1)Cl)C1=CC=NC=C1 | C15H13ClN4
